US07842696B2
Pd/C (378 mg) was added to a stirred solution of 1-(3-phenyl-propyl)-piperidine-4-carboxylic acid benzyl ester (1.89 g, 5 mmol) in MeOH (38 mL) and stirring was continued under hydrogen atmosphere for 2 hrs. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated under reduced pressure to afford 1.502 mg (93.93% yield) of 1-(3-phenyl-propyl)-piperidine-4-carboxylic acid. LCMS Purity: 95.08%.

reactant | 1-(3-phenyl-propyl)-piperidine-4-carboxylic acid benzyl ester | 5 mmol, 1.89 g | C(C1=CC=CC=C1)OC(=O)C1CCN(CC1)CCCC1=CC=CC=C1 | C22H27NO2
solvent | MeOH | 38 mL | CO | CH4O
catalyst | Pd/C | 378 mg | [Pd] | Pd
product | 1-(3-phenyl-propyl)-piperidine-4-carboxylic acid | 1.502 mg, 93.93% yield | C1(=CC=CC=C1)CCCN1CCC(CC1)C(=O)O | C15H21NO2
